US03951876
A mixture of 7.1 g of 2-acetoxyethyl-1,1-ethylenedioxy-2-n-pentyl-cyclopentane, 14.5 g of acetone and 0.0475 g of paratoluenesulphonic acid is brought to reflux during 1 hour. There is added thereto 0.08 mole of triethanolamine and the mixture is concentrated under reduced pressure on a water-bath. The residue is dissolved in 50 ml of benzene and washed with water until neutral. The distilled benzene solution yields 7 g of crude product which are rectified. There are obtained 5 g of 3-acetoxyethyl-2-n-pentyl-1-cyclopentanone (83.3% yield) having b.p.0.5 = 110°-113°C, nD15 = 1.4610.

reactant | 2-acetoxyethyl-1,1-ethylenedioxy-2-n-pentyl-cyclopentane | 7.1 g | C(C)(=O)OCCC1(C2(CCC1)OCCO2)CCCCC | C16H28O4
reactant | acetone | 14.5 g | CC(=O)C | C3H6O
reactant | triethanolamine | 0.08 mole | N(CCO)(CCO)CCO | C6H15NO3
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | paratoluenesulphonic acid | 0.0475 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-acetoxyethyl-2-n-pentyl-1-cyclopentanone | 5 g, 83.3% yield | C(C)(=O)OCCC1C(C(CC1)=O)CCCCC | C14H24O3
